US05686455
Methyl-4-[1-methyl-4-phenyl-5-(4-pyridyl)-imidazol-2-yl]benzoate
To a suspension of 4-[1-methyl-4-phenyl-5(4-pyridyl)-imidazol-2-yl]benzoic acid, sodium salt (20 mg, 0.06 mmol) [See Ex. 5 above] in CH2 Cl2 (2 mL.) was added triethylamine (24 mL, 0.17 mmol), followed by thionyl chloride (10 mL, 0.14 mmol). The reaction mixture was stirred at rt for 30 min, at which time MeOH (0.5 mL) was added. The mixture was stirred at rt for an additional 2 h and concentrated under reduced pressure. The residue was purified by flash chromatography, eluting with a solvent gradient of 0-1% MeOH/CHCl3 and recrystallized from EtOAc to afford the title compound as an off-white crystalline solid (1.6 mg, 8%): mp 208°-209° C.

reactant | 4-[1-methyl-4-phenyl-5(4-pyridyl)-imidazol-2-yl]benzoic acid | CN1C(=NC(=C1C1=CC=NC=C1)C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C22H17N3O2
reactant | sodium | 0.06 mmol, 20 mg | [Na] | Na
reactant | triethylamine | 0.17 mmol, 24 mL | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 0.14 mmol, 10 mL | S(=O)(Cl)Cl | Cl2OS
solvent | Cl2 | 2 mL | ClCl | Cl2
solvent | MeOH | 0.5 mL | CO | CH4O
product | Methyl-4-[1-methyl-4-phenyl-5-(4-pyridyl)-imidazol-2-yl]benzoate | 1.6 mg, 8% | COC(C1=CC=C(C=C1)C=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=NC=C1)C)=O | C23H19N3O2
